US06479536B1
6-[2,2,4,6,7-Pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]-6H-[1,3]dioxolo[4,5-f]-isoindole
To a solution of 2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine (799.8 mg, 2.73 mmol) in tetrahydrofuran (30 ml) were added 5,6-bis(chloromethyl)-1,3-benzodioxazole (603.8 mg, 2.76 mmol), sodium carbonate (877.8 mg, 8.28 mmol), and tetrabutylammonium iodide (506.8 mg, 1.37 mmol) and the mixture was refluxed with heating for 23 hours. The reaction mixture was cooled down to room temperature and then poured into ice water. The product was extracted twice with isopropyl ether. The combined extracts were washed with an aqueous saturated solution of sodium chloride, dried on magnesium sulfate, filtered, and then concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel (hexane-ethyl acetate 10:1) to obtain 136.8 mg (11% yield) of the title compound. Melting point: 236-242° C. (Ethyl acetate)

reactant | 2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine | 2.73 mmol, 799.8 mg | CC1(OC2=C(C1C1=CC=C(C=C1)C)C(=C(C(=C2C)C)N)C)C | C20H25NO
reactant | sodium carbonate | 8.28 mmol, 877.8 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium iodide | 1.37 mmol, 506.8 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 6-[2,2,4,6,7-Pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]-6H-[1,3]dioxolo[4,5-f]-isoindole | 136.8 mg, 11% yield | CC1(OC2=C(C1C1=CC=C(C=C1)C)C(=C(C(=C2C)C)N2C=C1C=C3C(=CC1=C2)OCO3)C)C | C29H29NO3
